US04402960
Under agitation and using argon as the protective gas, 7 ml approximately 1.5 N n-butyllithium in hexane is added dropwise at 0° to a solution of 3.71 g of 4,5-bis(4-methoxyphenyl)-1-benzylimidazole in a mixture of 50 ml of absolute ether and 50 ml of benzene. After 30 minutes, a suspension of 3.3 g of p-toluenesulfonic acid anhydride in 50 ml of absolute ether/benzene 1:1 is added dropwise to the reaction mixture, maintaining the temperature between -5° and 0° by cooling. After 16 hours of agitation at room temperature, the reaction mixture is washed with sodium bicarbonate solution; the organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is recrystallized from ether, yielding 3.78 g of 4,5-bis(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylsulfonyl)imidazole, mp 154°-156°.

reactant | n-butyllithium | 1.5 N, 7 ml approximately | C(CCC)[Li]
reactant | 4,5-bis(4-methoxyphenyl)-1-benzylimidazole | 3.71 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1 | C24H22N2O2
reactant | p-toluenesulfonic acid anhydride | 3.3 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | hexane | CCCCCC | C6H14
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | ether benzene | 50 ml | CCOCC.C1=CC=CC=C1
product | 4,5-bis(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylsulfonyl)imidazole | 3.78 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C31H28N2O4S
